US08648089B2
4-(3-bromo-1-(pyridin-4-yl)-1H-indol-6-yl)phenol
N-Bromosuccinimide (8.1 mg, 0.046 mmol) was added to a mixture solution of tert-butyl 4-(1-(pyridin-4-yl)-1H-indol-6-yl)phenol (10 mg, 0.035 mmol) in THF (0.5 mL) mixture solution at −78° C. After stirring at −78° C. for 2 hours, the mixture was further stirred at 0° C. for 1 hour and then pyridine (8.5 μL, 0.105 mmol) was added. After stirring at room temperature for 30 minutes, water was added and the mixture was extracted with ethyl acetate. The collected organic layer was washed with saturated sodium bicarbonate solution and brine, and then concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The target compound was obtained as white solid.

reactant | N-Bromosuccinimide | 0.046 mmol, 8.1 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tert-butyl 4-(1-(pyridin-4-yl)-1H-indol-6-yl)phenol | 0.035 mmol, 10 mg | C(C)(C)(C)C1=C(C=CC(=C1)C1=CC=C2C=CN(C2=C1)C1=CC=NC=C1)O | C23H22N2O
reactant | pyridine | 0.105 mmol, 8.5 μL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(3-bromo-1-(pyridin-4-yl)-1H-indol-6-yl)phenol | BrC1=CN(C2=CC(=CC=C12)C1=CC=C(C=C1)O)C1=CC=NC=C1 | C19H13BrN2O
